US07777047B2
N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
A mixture of 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (1.00 g), bromomalonaldehyde (0.86 g) and N,N-dimethylacetamide (8 ml) was stirred at 80° C. for 3 hr. Water was added to the reaction mixture, and the resulting crystals were collected by filtration, washed with water, and dried. The obtained crystals were dissolved in tetrahydrofuran (8 ml) and methanol (8 ml), sodium borohydride (63 mg) was added at 0° C., and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the resulting crystals were collected by filtration, washed with water, and dried. The crystals were subjected to silica gel column chromatography to give the title compound (0.43 g, yield 39%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (3:1, volume ratio). melting point 201-202° C.

reactant | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 1.00 g | CN(C=1C=CC=C2C=C(NC12)C(N)=S)S(=O)(=O)C=1SC=CC1 | C14H13N3O2S3
reactant | bromomalonaldehyde | 0.86 g | BrC(C=O)C=O | C3H3BrO2
reactant | N,N-dimethylacetamide | 8 ml | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.43 g, yield 39% | OCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H15N3O3S3
